US04341719
According to Examples 2 and 3 of German Democratic Republic Pat. No. 9,728, 1-amino-2-ethoxy-naphthalene-6-sulphonic acid, is obtained by a procedure in which, in a first stage, 1-acetamino-2-hydroxy-naphthalene-6-sulphonic acid is prepared from 1-amino-2-hydroxy-naphthalene-6-sulphonic acid by reaction with acetic anhydride in dilute acetic acid, this intermediate product is etherified, in a second stage, with diethyl sulphate or with ethyl chloride in aqueous-alcoholic sodium hydroxide solution to give 1-acetamino-2-ethoxy-naphthalene-6-sulphonic acid, and, finally, this intermediate product is deacetylated, without intermediate isolation, by heating with aqueous sodium hydroxide solution to give 1-amino-2-ethoxy-naphthalene-6-sulphonic acid.

reactant | 1-amino-2-hydroxy-naphthalene-6-sulphonic acid | NC1=C(C=CC2=CC(=CC=C12)S(=O)(=O)O)O | C10H9NO4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | diethyl sulphate | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | ethyl chloride | C(C)Cl | C2H5Cl
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-acetamino-2-ethoxy-naphthalene-6-sulphonic acid | N(C(=O)C)C1=C(C=CC2=CC(=CC=C12)S(=O)(=O)O)OCC | C14H15NO5S
